US07674811B2
Synthesis of 2-(3-bromophenyl)acetamide
1-Hydroxybenzotriazole (HOBT, 13.82 g, 102.3 mmol), N-ethyldiisopropyl amine (Hunig's base, 13.22 g, 102.3 mmol) and ammonium carbonate (27.0 g, 279.0 mmol) were added to a solution of (3-bromophenyl)acetic acid (20.0 g, 93.0 mmol) in freshly dried and distilled tetrahydrofuran (80 mL) under a nitrogen atmosphere. The reaction mixture was stirred at room temperature for about 5 minutes and then cooled to 0° C. and stirred at the same temperature for about 1 hour. 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (EDCLHCl, 19.61 g, 102.3 mmol) was added at 0° C. under nitrogen atmosphere. The reaction mixture was stirred at room temperature for about 12 hours. The solvent was evaporated under vacuum and water was added. A white solid was obtained which was filtered, washed with water and dried. Yield: 12.69 g.

reactant | 1-Hydroxybenzotriazole | 102.3 mmol, 13.82 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-ethyldiisopropyl amine | 102.3 mmol, 13.22 g | C(C)N(C(C)C)C(C)C | C8H19N
reactant | ammonium carbonate | 279.0 mmol, 27.0 g | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | (3-bromophenyl)acetic acid | 93.0 mmol, 20.0 g | BrC=1C=C(C=CC1)CC(=O)O | C8H7BrO2
reactant | 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 102.3 mmol, 19.61 g | Cl.CN(CCCN=C=NCC)C
product | 2-(3-bromophenyl)acetamide | BrC=1C=C(C=CC1)CC(=O)N | C8H8BrNO
